US07223788B2
N-[1-(4-Nitrophenyl)azetidin-3-yl]acetamide
Acetic anhydride (0.6 ml) was added to a solution of 1-(4-nitrophenyl)-azetidin-3-ylamine (0.5 g ) in pyridine (1.2 ml). After one hour, volatile fractions were removed. This resulted in the product with the molecular weight of 235.24 (C11H13N3O3); MS (ESI): 236 (M+H+).

reactant | Acetic anhydride | 0.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(4-nitrophenyl)-azetidin-3-ylamine | 0.5 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CC(C1)N | C9H11N3O2
solvent | pyridine | 1.2 ml | N1=CC=CC=C1 | C5H5N
product | N-[1-(4-Nitrophenyl)azetidin-3-yl]acetamide | [N+](=O)([O-])C1=CC=C(C=C1)N1CC(C1)NC(C)=O | C11H13N3O3
